US09290485B2
d) 1-((1-Methyl-1,2,3,4-tetrahydroquinolin-7-yl)methyl)-1H-pyrazole-4-carboxylic acid
Ethyl 1-((1-methyl-1,2,3,4-tetrahydroquinolin-7-yl)methyl)-1H-pyrazole-4-carboxylate (233 mg, 0.607 mmol) was dissolved in a mixture of MeOH (6 ml) and 1N NaOH (3.00 ml). The reaction mixture was stirred for 8 hr at 20° C. and the solvents were removed by evaporation under reduced pressure to afford the title compound. HPLC (Method A) Rt=1.348 min; MS (Method A) [M+H]+=271.9

reactant | Ethyl 1-((1-methyl-1,2,3,4-tetrahydroquinolin-7-yl)methyl)-1H-pyrazole-4-carboxylate | 0.607 mmol, 233 mg | CN1CCCC2=CC=C(C=C12)CN1N=CC(=C1)C(=O)OCC | C17H21N3O2
solvent | MeOH | 6 ml | CO | CH4O
solvent | NaOH | 1N, 3.00 ml | [OH-].[Na+]
product | 1-((1-Methyl-1,2,3,4-tetrahydroquinolin-7-yl)methyl)-1H-pyrazole-4-carboxylic acid | CN1CCCC2=CC=C(C=C12)CN1N=CC(=C1)C(=O)O | C15H17N3O2
